Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Nafcillin / Lisinopril / difficult intubation requires 
LMA
 
Attending: ___.
 
Chief Complaint:
Fatigue/altered mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old F with PMH significant for CAD s/p CABG, w/ graft 
stenosis requiring stents x4, DM2, ESRD on peritoneal dialysis, 
Lt Charcot's foot complicated by osteomyelitits, and CHF. She 
was recently hospitalized from ___ on Vascular Surgery 
service for gangrene of Rt ___ finger and discharged on 
minocycline for prophylaxis, for which she was to take for 2 
weeks for treatment of pansensitive pseudomonal foot infection. 
Her warfarin and midodrine were d/c'd during hospitalization. 
Today she presents with 2 days of fatigue.  

In the ED, vitals: T 97.4 89 83/45 18 92% RA. Labs were 
significant for WBC, 24.2 (93.3N,0B, 4.1L0, Cr 7.0, CKMB 18, Tn 
2.23, BNP 37612. EKG showed new ST-depressions in V3-V5. She was 
evaluated by vascular surgery for concern for gangrene and 
osteomyelitis. Exam and pulses felt to be stable from discharge 
on ___: b/l UE fingertip necrosis x 4, finger amp sites x 2, 
and LLE foot wounds. Wo evidence of new purulence or fluctuance. 
They recommended aggressive Abx and no surgical intervention at 
this point. She was given vancomycin/cefepime/metronidazole. 
Patient triggered for hypotension and SPo2 83%. She appeared 
lethargic but still responsive. She was started on central 
levophed and transferred to the MICU for further management. 
Renal dialysis team consulted and she underwent peritoneal 
dialysis in the ED. Vitals prior to transfer afebrile 92 121/60 
15 99%/RA. 

On arrival to the CCU, pt was sleepy, but arousable and 
answering questions appropriately. Pt stated that she was not 
currently in any pain. She endorsed the story noted above, 
stating that she has been feeling more fatigued since she was 
last discharged and then sioce the weekend she has been feeling 
more confused. She specifically denied any CP, palpitations, 
SOB, cough, abdominal pain, N/V/D/C. Her son notes that she has 
been more constipated than usual. He also notes that she has 
been more "out of it" lately. He states that he has been trying 
to limit his mother dilaudid to 4 mg PO QD. Pt also denies any 
foot pain, as she has chronic neuropathy. She states that it 
seems to have been oozing lately, but is not sure how long that 
has been going on. 

 
Past Medical History:
- CAD s/p CABG x5 ___ (LIMA-LAD, SVG-PDA, SVG-OM1,
SVG-OM2, SVG-D1, c.b. sternal wound infection. ___:  All
SVGs occluded.  LCX BMS, OM1 BMS. ___: OM PCI/brachy therapy 
for
ISR. ___: DES to OM1 for ISR, DES to LCX for ISR.  Last cath
___: OM filled by collaterals.
- Heart failure with preserved EF: EF 50% (___)  
- DM c/b neuropathy/retinopathy/gastroparesis  HbA1c 6% in 5.13. 
 
- ESRD, peritoneal dialysis.  
- Severe hypotenson: SBPs down to ___, unable to auscultate 
pulse during recent Cardiology apt, started on midodrine in 
___. This was d/c'd during last hospitalization d/t 
gangrene of fingers.  
- Hyperlipidemia  
- Obesity.  
- Depression.  
- Left Charcot foot  
- LLE osteomyelitis ___
- Massive UGI bleed ___, s.p. 12 U PRBC transfusion from 
large gastric ulcer
- LUE DVT involving PICC ___
- MSSA bacteremia ___ 
- Gangrene of multiple digits or Rt hand: s/p Rt ___ finger 
amputation.  
- H/o UGIB  
- H/o LUE DVT 
- Home Oxygen 2L NC  

 
Social History:
___
Family History:
significant for CAD
 
Physical Exam:
Admission Physical
===================
Vitals  92 121/60 15 99%/RA
General: Laying in bed, sleepy, but arousable, in NAD  
HEENT: PERRL, OP clear, MMM  
Neck: RIJ in place, JVP ~ 9 cm  
CV: RRR, nl S1 and S2, III/VI systolic murmur best heard at the 
___  
Lungs: Clear to auscultation anteriorly, no 
wheezes/rales/ronchi, but limited by pt position  
Abdomen: +BS, soft, distended, NT nontender  
Ext: RLE warm with DP 2+ and 1 cm circular lesion with central 
necrosis at the arch of the foot; LLE warm, erythematous, and 1+ 
edema to sacrum with 2 cm round lesion at the medial malleolus 
without appropriate granulation tissue  
Neuro: A&Ox3, no sensation below knees b/l 

Discharge Physical
===================
VS T 98.9, bp 118/50, p 93, r 18, 98% on 3L
General: Lying in bed. NAD. Skin darkly pigmented. 
HEENT:Right ___ IJ removed yesterday, with bandage, C/D/I
CV: RRR. Holosystolic murmur ___ heard over L & RUSB. Pulses 
felt in all four extremities ___ in LLE, DP and ___ in RLE).
PULM: Lung sounds clear anteriorly
GI: Obese. Soft. Non-tender. 
EXT: Multiple necrotic fingers on R&L. wound vac in place on 
medial LLE adjacent to a necrotic and ulcerated L hallux. Trace 
edema in both calves.
Neuro: A&Ox3
 

 
Pertinent Results:
Admission Labs
=========================
___ 10:30AM BLOOD WBC-24.4*# RBC-3.02* Hgb-8.4* Hct-26.5* 
MCV-88 MCH-27.9 MCHC-31.7 RDW-16.3* Plt ___
___ 06:25AM BLOOD WBC-15.4* RBC-2.60* Hgb-7.0* Hct-23.0* 
MCV-88 MCH-26.8* MCHC-30.4* RDW-16.0* Plt ___
___ 05:15AM BLOOD WBC-12.4* RBC-2.67* Hgb-7.3* Hct-23.6* 
MCV-88 MCH-27.5 MCHC-31.2 RDW-15.8* Plt ___
___ 10:30AM BLOOD Glucose-168* UreaN-32* Creat-7.0* Na-137 
K-3.9 Cl-86* HCO3-21* AnGap-34*
___ 06:25AM BLOOD Glucose-99 UreaN-33* Creat-6.3* Na-137 
K-2.9* Cl-91* HCO3-20* AnGap-29*
___ 02:32AM BLOOD Glucose-93 UreaN-31* Creat-6.0* Na-137 
K-3.2* Cl-91* HCO3-21* AnGap-28*
___ 05:15AM BLOOD Glucose-78 UreaN-33* Creat-6.1* Na-136 
K-3.2* Cl-92* HCO3-20* AnGap-27*
___ 10:30AM BLOOD ___ PTT-30.1 ___
___ 12:09AM BLOOD ___ PTT-43.5* ___
___ 10:30AM BLOOD CK-MB-18* MB Indx-10.9* ___
___ 02:32AM BLOOD CK-MB-10 MB Indx-9.2*
___ 10:42AM BLOOD Lactate-1.7

Inflamatory markers
=====================
___ 06:07AM BLOOD CRP-69.0*
___ 06:25AM BLOOD CRP-187.3*
___ 06:07AM BLOOD ESR-140*
___ 06:25AM BLOOD ESR-140*

Hypercoagulability
====================
___ 14.9* 9.4 - 12.5 sec 
PTT 30.7 25.0 - 36.5 sec 
___ 1.4* 0.9 - 1.1   
INHIBITORS & ANTICOAGULANTS 
Protein C, Functional 99 70 - 170 % 
NOTE NEW ADULT REFERENCE RANGE AS OF ___. 
Protein S, Functional 72 50 - 150 % 
NOTE NEW REFERENCE RANGE AS OF ___ 

Imaging:
===================

FOOT X-RAY ___
IMPRESSION: Overall similar appearance of the foot with 
suspected neuropathic changes and widespread dense arterial 
calcifications.  Overall, there are no radiographic findings 
suggestive of superimposed osteomyelitis, but MR could be 
potentially useful to evaluate further if clinically indicated. 

HAND X-RAY ___
IMPRESSION: Overall similar appearance of the foot with 
suspected neuropathic changes and widespread dense arterial 
calcifications.  Overall, there are no radiographic findings 
suggestive of superimposed osteomyelitis, but MR could be 
potentially useful to evaluate further if clinically indicated. 

CXR___
IMPRESSION: Right internal jugular central venous catheter tip 
terminates within the proximal right atrium.  Persistent mild 
pulmonary edema, small left pleural effusion, and retrocardiac 
opacity, possibly reflecting atelectasis, infection or 
aspiration. 

ECHO ___
There is mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is low normal (LVEF 50%) secondary to focal 
akinesis/hypokinesis of the posterior wall. Due to the 
technically suboptimal nature of this study, other focal wall 
motion abnormalities cannot be excluded. There are three aortic 
valve leaflets. The aortic valve leaflets are moderately 
thickened. There is a minimally increased gradient consistent 
with minimal aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are moderately thickened. There 
is a probable vegetation (approximately 1 cm) on the anterior 
mitral valve leaflet (atrial side). There is severe mitral 
annular calcification. There is moderate thickening of the 
mitral valve chordae. Moderate (2+) mitral regurgitation is 
seen. Moderate [2+] tricuspid regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 
Compared with the prior study (images reviewed) of ___, a 
probable mitral valve vegetation is now seen.

Microbiology:
 C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

TISSUE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     2 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S

___ 6:07 am BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
      Source: Line-IJ. 

   BLOOD/FUNGAL CULTURE (Pending): 

   BLOOD/AFB CULTURE (Pending): 

 
Pathology

Bone, left foot (A):

Cartilage and scant bony fragments with reactive changes.

Discharge Labs
=====================
___ 06:18AM BLOOD WBC-13.6* RBC-2.76* Hgb-7.7* Hct-23.9* 
MCV-87 MCH-27.8 MCHC-32.1 RDW-16.2* Plt ___
___ 06:07AM BLOOD Neuts-84.3* Lymphs-10.2* Monos-3.9 
Eos-1.3 Baso-0.2
___ 06:18AM BLOOD Plt ___
___ 06:07AM BLOOD ESR-140*
___ 06:18AM BLOOD Glucose-81 UreaN-35* Creat-6.1* Na-139 
K-4.1 Cl-91* HCO3-21* AnGap-31*
___ 02:32AM BLOOD ALT-54* AST-31 AlkPhos-150* TotBili-0.1
___ 06:18AM BLOOD Calcium-9.1 Phos-5.2* Mg-1.___ with PMH significant for CAD (s/p CABG x5 w/ stent x4), CHF, 
DM2, ESRD requiring peritoneal dialysis, Calciphylaxis, L 
Charcot foot w/ recent osteomyelitis (s/p bone biopsy ___ who 
presented on ___ with 2 days of fatigue and hypotension.

ACTIVE ISSUES

# Hypotension:  

In ED, SBPs were down to ___ and patient met ___ SIRS (tachypnea 
and leukocytosis). In the ED pt was thought to be hypotensive 
___ to septic shock vs cardiogenic shock (troponins elevated, 
discussed further below) and as such she was given 3L fluid and 
started on levophed. Pt was seen by vascular surgery in the ED 
who felt that her gangrenous fingers or her LLE lesion could be 
possible sources of infection, but did not feel that surgery was 
necessary at the time. Pt was started on broad spectrum abx and 
sent to the CCU. 

On arrival to the CCU, it was noted that the pts lactate was not 
elevated and patient was A+Ox3, which indicated adequate 
perfusion. Upon further chart review, it was noted that the 
patient is chronically hypotensive, with SBPs in the 80-90s in 
the afternoon and 70-60s in the AM. She was started on midodrine 
in ___ as she was symptomatic (dizzy, syncope). However, 
this was d/c'd during her last hospitalization d/t gangrene of 
her fingers. Once stable in the CCU, pt was weaned off of 
levophed and pt tolerated with SBPs in 80-90s without any 
pressure support or fluid boluses. She was transfered to the 
medicine.  

On the Medicine floor she was monitored on telemetry. She 
triggered for SBPs in the ___ and received fluid.  Her SBP 
improved to the 120-130s range with fluid and increased PO 
intake.  However her BP would drop to the 70-80s immediately 
after peritoneal dialysis and she required fluid boluses to 
maintain her pressure, and titration of her PD orders by the 
renal service. By discharge her BP had stabilized. Discharge BP 
118/50.   

# LLE Osteomyelitis w/ Leukocytosis: Upon admission, WBC 
elevated to 24.4. Ucx, stool cx, peritoneal cx, bcx, and CXR 
negative for sources of infection. Pt has 2 cm round lesion on 
the LLE that was the likely source. Pt stated that it had been 
oozing more PTA, but not painful, as she has chronic peripheral 
neuropathy. Foot x-ray done in the ED did not show osteo, but 
ESR was 140 and values > 100 indicate possibility of 
osteomyelitis. Podiatry was consulted and bone bx was performed 
to formally determine if pt has osteomyelitis and to tailor abx 
appropriately. She was empirically started on 
vanc/cefepime/flagyl and subsequently switched to vanc/zosyn for 
coverage of MRSA, gram negative, and possible pseudomonal 
infection.  Wound cultures grew psudomonas and serratia.  
Vancomycin and zosyn were continued.  Coverage was planned to be 
narrowed to zosyn alone, but given new mitral valve vegitation, 
it was continued untl ID consult obtained. Pts minocyline was 
stopped. Abx changed to Ceftazidine and Metronidazole to be 
continued for 6 weeks (start date ___ end date ___. 
Podiatry and physical therapy were consulted prior to discharge. 
Left leg cannot bear weight until LLE ulcer has been determined 
healed by outpatient podiatrist. ___ recommended discharge to 
rehabilitation facility for reconditioning.

# NSTEMI: In ED, troponin 2.23, CK-MB 18, and EKG with new 
ST-depressions in lateral leads (notable on EKG from clinic 3 
days prior). It is possible that troponemia was due to ___, 
however patient has chronic troponemia, and her values today are 
5x her normal level and EKG with new changes. Her TIMI score was 
5. Medical management was determined optimal given her extensive 
revascularization history and multiple CABG. On admission pt was 
asymptomatic wo CP, SOB, or nausea/diaphoresis. Pt was continued 
on her home ASA 325 mg, started on heparin gtt, and CE were 
trended. At the time of transfer CE were decreased with troponin 
at 1.95. Heparin gtt was stopped after 24 hours prior to 
transfer to floor, as pt was stable with no new ACS symptoms. 
Normal post NSTEMI beta blocker held due to hypotension. NSTEMI 
considered resolved upon discharge.

# CHF/Mitral valve vegitation: Patient with history of CHF w/ 
preserved EF (HFPEF). Echo in ___ showed EF 50% and 
basal-inferior/infero-lateral hypokinesis. Patient presents 
today with NSTEMI and BNP 37,000 with mild pulmonary edema on 
chest xray. BNP 2 weeks ago 17,000. ECHO was done on ___ and 
revealed left ventricular systolic function atw normal (LVEF 
50%) secondary to focal akinesis/hypokinesis of the posterior 
wall as well as a new mitral valve vegitation. Pt was 
transferred to floor service prior to receipt of these results. 
Dr. ___ primary cardiologist was consulted and 
after reviewing previous echos it could not be definitively 
determined if this vegitation was present previously. It was 
decided that the patient be treated assuming this is a new 
endocarditis lesion. Patient received a TTE which supported 
presensce of vegetation on mitral valve, but patient delined TEE 
which would have provided a clearer view. Antibiotic therapy for 
LLE ulcer will be continued to cover any possible infected 
vegetation though suspicion is very low.
 
# ESRD on peritoneal dialysis: Pt dialyzed in the ED. Renal was 
consulted and recommended renally dosing abx, and gave rec for 
continuing PD, which was followed while pt was in the CCU and 
after transfer to the floor. Home medications were continued, 
including lanthanum, nephrocaps, and bowel regimen with 
lactulose + senna, colace, bisacodyl PRN. Her potassium was low 
___ to cycling of peritoneal dialysis fluid and renal recommend 
removing the potassium restriction on her diet.  If she becomes 
hypokalemic she may need potassium supplementation in her PD 
fluid.  Her lactulose was discontinued secondary to diarrhea.

# Diarrhea: Patient developed diarrhea on medicine floor. C. 
dificile toxin assay from ___ was negative. Diarrhea determined 
to be non-infectious. Reglan reduced to TID and lactulose held. 
On ___ she was started on Loperamide and this was continued as 
needed on discharge for diarrhea.

# Hypercoagulability:  There was concern that an alternative 
explanation for her distal necrosis maybe hypercoagulability 
instead of calciphylaxis.  She has received a thorough workup 
including Lupus ProtCFn ProtSFn ACA IgG ACA IgM, all of which 
were within normal limits.  Note that Lupus Anticoagulant was 
positive when she was on coumadin but negative after 
discontinuation.  In the past she has had normal SPEP and UPEP 
as well.  It may be warranted to pursue further workup of of 
hypercoagulability with Factor V Leiden and a Prothrombin 
Mutation Analysis, but this is of low yield and unlikely to 
explain her clotting.    

CHRONIC ISSUES
# Hyperphosphatemia: ___ ESRD. Pt placed on low phos/K diet and 
lanthanum was continued, as above. Phosphate was 5.0 as of ___.

# Normocytic anemia: Most likely ___ ESRD. Her H/H appeared to 
be[??]at baseline. Pts home ferrous gluconate was continued and 
H/H ranged ___ over the course of her stay. 
Continued iron supplementation is recommended. She received a 
total of 3 units of blood during this hospitalization.

# Calciphylaxis: Patient started on empiric treatment for 
calciphylaxis with IV sodium thiosulphate. Efforts were made to 
get a tissue diagnosis from amputation samples, however the 
slides were not obtainable.  

# HLD: Stable. Home rosuvastatin and ezetimibe continued.

# DM: Stable. Pt continued on outpatient regimen: glargine 5 
units at breakfast and 15 unts at betime. Humalog sliding scale 
(3 units B/L/D).  

# Gasroparesis: Stable. Pt continued on home reglan.  Decreased 
from QID to TID given diarrhea and this can be further titrated 
down while pt has diarrhea, which is thought to be from 
antibiotics.

# Neuropathy: Stable. Per renal recs held gabapentin. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Bisacodyl 10 mg PO DAILY:PRN constipation 
3. Collagenase Ointment 1 Appl TP DAILY 
4. Docusate Sodium 100 mg PO BID:PRN constipation 
5. Ezetimibe 10 mg PO DAILY 
6. Ferrous GLUCONATE 324 mg PO DAILY 
7. Gabapentin 100 mg PO BID 
8. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
9. Glargine 5 Units Breakfast
Glargine 15 Units Bedtime
Humalog 3 Units Breakfast
Humalog 3 Units Lunch
Humalog 3 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
10. Lactulose 30 mL PO Q8H:PRN constipation 
11. Lanthanum 1000 mg PO TID W/MEALS 
12. Lorazepam 1 mg PO QID:PRN anxiety 
13. Metoclopramide 5 mg PO QIDACHS 
14. Minocycline 100 mg PO Q12H 
15. Nephrocaps 1 CAP PO DAILY 
16. Nitroglycerin SL 0.3 mg SL PRN CP 
17. Nystatin Cream 1 Appl TP BID:PRN fungal infection 
18. Omeprazole 40 mg PO DAILY 
19. Rosuvastatin Calcium 40 mg PO QPM 
20. Senna 1 TAB PO HS 
21. Sertraline 100 mg PO DAILY 
22. Sodium Thiosulfate 25 g IV Q3WEEKLY WITH PD 

 
Discharge Medications:
1. Lift
Patient lift with sling
Diagnosis: Osteomyelitis of left foot and LLE Charcot foot and 
ankle
Reason: difficulty with transfer
2. CefTAZidime 1 g IV Q24H Duration: 42 Days 
start date: ___ 
RX *ceftazidime-dextrose (iso-osm) [Fortaz in dextrose 5 %] 1 
gram/50 mL 1 g Q24h Daily Disp #*42 Unit Refills:*0
3. Aspirin 325 mg PO DAILY 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. Collagenase Ointment 1 Appl TP DAILY 
6. Docusate Sodium 100 mg PO BID:PRN constipation 
7. Ezetimibe 10 mg PO DAILY 
8. Ferrous GLUCONATE 324 mg PO DAILY 
9. HYDROmorphone (Dilaudid) 4 mg PO Q4H:PRN pain 
10. Glargine 5 Units Breakfast
Glargine 15 Units Bedtime
Humalog 3 Units Breakfast
Humalog 3 Units Lunch
Humalog 3 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
11. Lactulose 30 mL PO Q8H:PRN constipation 
12. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
13. Lanthanum 1000 mg PO TID W/MEALS 
14. Metoclopramide 5 mg PO TID 
15. Nephrocaps 1 CAP PO DAILY 
16. Nystatin Cream 1 Appl TP BID:PRN fungal infection 
17. Omeprazole 40 mg PO DAILY 
18. Rosuvastatin Calcium 40 mg PO QPM 
19. Senna 1 TAB PO HS 
20. Sertraline 100 mg PO DAILY 
21. Sodium Thiosulfate 25 g IV Q3WEEKLY WITH PD 
22. Acetaminophen 1000 mg PO Q8H:PRN pain 
23. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
24. Ondansetron 4 mg IV Q8H:PRN n/v 
25. Epoetin Alfa 30,000 UNIT SC QMOWEFR Duration: 1 Dose 
26. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
27. LOPERamide 4 mg PO QID:PRN diarrhea 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Osteomyelitis of left foot
Calciphilaxis
Gangrene of digits
End stage renal disease on peritoneal dialysis
Left charcot foot
Non ST-elevation Myocardial Infarction 
Secondary Diagnoses:  Coronary artery disease, Congestive heart 
failure, Diabetes Type 2, hyperlipidemia, gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear ___, 
___  was a pleasure caring for you during your recent admission 
to ___,  You were admitted  for 
fatigue and low blood blood pressure.  You were found to have an 
infection of your left foot that spread to your bone.  We 
treated you with fluids and medications to maintain your blood 
pressure and treated you with antibiotics to control the 
infection.  Your heart was also injured by the low blood 
pressure and we performed tests to look at your heart function.  
While your heart function was unchanged from previous 
hospitalizations there was a concerning lesion found on one of 
your heart valves which could be a sign of an infection.  We 
discussed this infection with our cardiologists and infectious 
disease specialists who agree that you should be treated with 6 
weeks of IV antibiotics. Our vascular surgeons met with you to 
discuss further amputations of your fingers.  You were not 
interested in further amputation at this time, but were 
encouraged to follow up with vascular surgery if the gangrene on 
your fingers spreads or you desire amputation.   You must 
continue to take your IV antibiotics for the next 6 weeks.

THere was also consern that your blood may be more likely to 
clot than normal.  We performed tests to examine this further 
some of the results of these tests are pending.  You should 
follow up with your primary care doctor to obtain the results of 
these tests and determine if further testing is indicated.  
Additionally you should follow up with with all of your doctors 
___ below.

To Do:
1) Do not bear weight on your left leg until a podiatrist says 
that the wound has healed and is ready.
2) Please resume the diet recommended by your endocrinologist 
and primary care doctor. You do not need to continue your low 
phosphate diet.
3) Please follow-up with your outpatient providers. Your 
appointments are listed below.
 
Followup Instructions:
___